US07169814B2
To a solution of (−) tyrosine (2.50 g, 13.8 mmol) in NaOH (aq) (2 N, 7.59 mL, 15.2 mmol) was added H2O (6 mL). This vigorously stirred solution was cooled to 0° C., and acetic anhydride (3.25 mL, 3.52 g, 34.5 mmol) was added via syringe pump over 30 min. During this addition, excess NaOH (aq) (2 N, 34.5 mL, 69.0 mmol) was added in 10 portions. After the addition was complete, the reaction was warmed to room temperature and stirred for 45 min. The colorless solution was then carefully acidified to pH 2 with 6 N HCl (aq). After concentrating under reduced pressure, the resulting solid was extracted with 15% H2O in acetone (4×). The filtrate was concentrated under reduced pressure to afford a slightly yellow oil. The addition of H2O (1.5 mL) afforded N-acetyl tyrosine as a white precipitate (670 mg, 3.00 mmol, 22%) that was washed with H2O (3×). The washings were saved for later precipitations. To a solution of N-acetyl tyrosine (76 mg, 0.34 mmol) in NaOH (aq) (0.5 N, 0.61 mL, 0.31 mmol) was added K2HPO4 (aq) (1 M, 0.61 mL, 0.61 mmol). This vigorously stirred solution was cooled to 0° C., and cyclohexyl isocyanate (48 μL, 47 mg, 0.37 mmol) was added dropwise to the reaction. During the addition, 0.5 M NaOH (aq) (4 drops) was added to maintain the pH between pH 8 and 9. After the addition was complete, the reaction was warmed to rt and stirred for 3 h. A white precipitate had formed, and the resulting suspension was washed with Et2O (2×). The aqueous layer was separated and carefully acidified to pH 2 with 6 N HCl (aq). The desired product xxx precipitated as a white solid (89 mg, 0.26 mmol, 76%) that was filtered and washed with H2O (3×).

reactant | (−) tyrosine | 13.8 mmol, 2.50 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | NaOH | 15.2 mmol, 2 N, 7.59 mL | [OH-].[Na+]
reactant | acetic anhydride | 34.5 mmol, 3.25 mL, 3.52 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaOH | 69.0 mmol, 2 N, 34.5 mL | [OH-].[Na+]
reactant | HCl | 6 N | Cl | ClH
solvent | H2O | 1.5 mL | O | H2O
solvent | H2O | 6 mL | O | H2O
product | N-acetyl tyrosine | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C11H13NO4
